US08895733B2
2-N-(2-Methoxyethyl)-2-N-phenyl-6-(5-{6-[(2,2,2-trifluoroethoxy)methyl]pyridin-3-yl}-1,2,4-oxadiazol-3-yl)-1,3,5-triazine-2,4-diamine (Method 17)
To a solution of [5-(3-{4-amino-6-[(2-methoxy-ethyl)-phenyl-amino]-[1,3,5]triazin-2-yl}-[1,2,4]oxadiazol-5-yl)-pyridin-2-yl]-methanol (Intermediate 130, 185 mg, 0.44 mmol) in DCM (40 mL) was added methanesulfonyl chloride (48 μL, 0.61 mmol) drop-wise, followed by triethylamine (92 μL, 0.66 mmol). The resulting solution was stirred for 3 h under an inert atmosphere. Incomplete reaction was observed so additional methanesulfonyl chloride (9 μL, 0.10 mmol) and triethylamine (16 μL, 0.11 mmol) were added and stirring was continued for 1 h. The reaction mixture was washed with water (2×50 mL) and the organic phase dried over magnesium sulfate and evaporated to dryness to afford the methanesulfonic acid 5-(3-{4-amino-6-[(2-methoxy-ethyl)-phenyl-amino]-[1,3,5]triazin-2-yl}-[1,2,4]oxadiazol-5-yl)-pyridin-2-ylmethyl ester intermediate. In a separate flask 2,2,2-trifluoro-ethanol (190 μL, 2.64 mmol) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil, 97 mg, 2.42 mmol) in anhydrous THF (30 mL) at 0 C under nitrogen. The resulting solution was stirred at 0 C for 30 min and then transferred via cannula to a solution of the methanesulfonic acid 5-(3-{4-amino-6-[(2-methoxy-ethyl)-phenyl-amino]-[1,3,5]triazin-2-yl}-[1,2,4]oxadiazol-5-yl)-pyridin-2-ylmethyl ester intermediate (220 mg, 0.44 mmol) in anhydrous THF (30 mL) at 0 C drop wise. The reaction mixture was stirred at room temperature for 18 h. The reaction was quenched with a saturated ammonium chloride aq. solution (5 mL) and extracted with EtOAc (3×50 mL). Combined organics were washed with brine (25 mL), dried over magnesium sulfate and evaporated to dryness. The crude product was purified by silica chromatography (2% MeOH in DCM) and then further by preparative HPLC-MS (Method C) to afford the title compound as an off-white solid (21 mg, 10%).

reactant | 2,2,2-trifluoro-ethanol | 2.64 mmol, 190 μL | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 2.42 mmol, 97 mg | [H-].[Na+]
reactant | methanesulfonic acid 5-(3-{4-amino-6-[(2-methoxy-ethyl)-phenyl-amino]-[1,3,5]triazin-2-yl}-[1,2,4]oxadiazol-5-yl)-pyridin-2-ylmethyl ester | 0.44 mmol, 220 mg | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)CCOC)C1=NOC(=N1)C=1C=CC(=NC1)COS(=O)(=O)C | C21H22N8O5S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-N-(2-Methoxyethyl)-2-N-phenyl-6-(5-{6-[(2,2,2-trifluoroethoxy)methyl]pyridin-3-yl}-1,2,4-oxadiazol-3-yl)-1,3,5-triazine-2,4-diamine | 21 mg, 10% | COCCN(C1=NC(=NC(=N1)N)C1=NOC(=N1)C=1C=NC(=CC1)COCC(F)(F)F)C1=CC=CC=C1 | C22H21F3N8O3
